US06531602B2
To 1.0 ml of diethyl ether were added 10 mg (0.25 μmol) of bis(cyclooctadiene)platinum, 13 mg (0.50 μmol) of triphenylphosphine and 165 mg (1.5 mmol) of 1-octyne, and 69 mg (0.5 mmol) of dimethyl(2-pyridyl)silane was added dropwise thereto at room temperature over 1 hour. Further, the mixture was continued to be stirred for 6 hours at an inner temperature of 40° C., followed by the addition of 6 ml of 1N hydrochloric acid and 5 ml of diethyl ether. After the mixture was stirred for 30 minutes, it was left stand and separated into the organic and aqueous layers. The organic layer was extracted with five portions of 6 ml of 1N hydrochloric acid, and the resulting aqueous layers were combined together and turned basic with the addition of sodium hydroxide pellets. This aqueous layer was extracted with three portions of 10 ml of diethyl ether. The resulting organic layer was dried over magnesium sulfate and the solvent was evaporated off under reduced pressure to give 112 mg of dimethyl(1-octenyl)(2-pyridyl)silane. Yield: 90%

reactant | triphenylphosphine | 0.50 μmol, 13 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-octyne | 1.5 mmol, 165 mg | C#CCCCCCC | C8H14
reactant | dimethyl(2-pyridyl)silane | 0.5 mmol, 69 mg | C[SiH](C1=NC=CC=C1)C | C7H11NSi
reactant | hydrochloric acid | 1N, 6 ml | Cl | ClH
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 1.0 ml | C(C)OCC | C4H10O
product | dimethyl(1-octenyl)(2-pyridyl)silane | 112 mg, Yield: 90% | C[Si](C1=NC=CC=C1)(C=CCCCCCC)C | C15H25NSi
